US06248765B1
300 mg of 1-(triphenylmethyl)-4-(3-hydroxypropyl)-1H-imidazole (0.81 mmol) are dissolved in 8 ml of freshly distilled THF. 277 mg of triphenylphosphine (1.06 mmol) and 145 mg m-trifluoromethylphenol are added thereto, and the resulting mixture is cooled and stirred for 5 minutes under nitrogen. Diethyl azodicarboxylate (184 mg; 1.06 mmol), dissolved in freshly distilled THF (4 ml), is added gradually to the reaction mixture and while stirring continuously at room temperature for 12 hours. After removal of the solvent in vacuo, column chromatography (SiO2; first eluent: petroleum spirit; second eluent: petroleum spirit/diethyl ether (50:50)) performed on the crude reaction mixture gives a white powder which is reduced in petroleum ether to give an oil of 1-(triphenylmethyl)-4-[3-(trifluoromethylphenoxy)-propyl]-1H-imidazole. The latter (210 mg; 0.41 mmol) is heated at 70° C. for 3 hours in THF (5 ml) and 2N HCl (12 ml). The THF is removed under reduced pressure and Ph3COH is extracted with diethyl ether. The aqueous phase is neutralized with potassium carbonate and the product is extracted into diethyl ether or chloroform. This solution is dried and evaporated, giving an oil which is dissolved in 2-propanol. Oxalic acid (1.5 equivalents) is added and the abovementioned product (on addition of diethyl ether) in the form of the oxalate, m.p.: 204-208° C.

reactant | 1-(triphenylmethyl)-4-(3-hydroxypropyl)-1H-imidazole | 0.81 mmol, 300 mg | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | triphenylphosphine | 1.06 mmol, 277 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | m-trifluoromethylphenol | 145 mg | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | Diethyl azodicarboxylate | 1.06 mmol, 184 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 1-(triphenylmethyl)-4-[3-(trifluoromethylphenoxy)-propyl]-1H-imidazole | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCOC1=C(C=CC=C1)C(F)(F)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H27F3N2O
